US06417200B1
F) N-(t-butoxycarbonyl)-2-nitro-4-(dimethyl-t-butylsiloxy)aniline
To a mixture 2-nitro-4-(dimethyl-t-butylsiloxy)aniline (10.00 g, 37.3 mmol) in THF (85 mL) was added a solution of 1M NaHMDS/THF (75 mL, 75 mmol). After 15 minutes, a solution of di-t-butyl dicarbonate (7.33 mg, 33.6 mmol) in THF (120 mL) was added and stirred for 30 m. The reaction was concentrated, diluted with EtOAc (350 mL) and washed with 0.1N HCl (850 mL). The aqueous layer was added sat. aq. NaHCO3 (85mL) and extracted with EtOAc (2×350 mL). The combined EtOAc layers was MgSO4 dried, filtered, and concentrated. The crude material chromatographed(hexanes to 5% EtOAc/ hexanes) the title compound (7.99 g, 21.7 mmol, 58%). This material was used without further purification.

reactant | 2-nitro-4-(dimethyl-t-butylsiloxy)aniline | 37.3 mmol, 10.00 g | [N+](=O)([O-])C1=C(N)C=CC(=C1)O[Si](C(C)(C)C)(C)C | C12H20N2O3Si
reactant | NaHMDS THF | 75 mmol, 1M, 75 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+].C1CCOC1
reactant | di-t-butyl dicarbonate | 33.6 mmol, 7.33 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 85 mL | C1CCOC1 | C4H8O
solvent | THF | 120 mL | C1CCOC1 | C4H8O
product | N-(t-butoxycarbonyl)-2-nitro-4-(dimethyl-t-butylsiloxy)aniline | 21.7 mmol, 7.99 g, 58% | C(C)(C)(C)OC(=O)NC1=C(C=C(C=C1)O[Si](C(C)(C)C)(C)C)[N+](=O)[O-] | C17H28N2O5Si
